US05003087
3,4,5-Trimethoxybenzaldehyde, acetonitrile, potassium cyanide, zinc (II) iodide and trimethylsilyl chloride are treated in the same manners as in the above procedure (1-a) to give (3,4,5-trimethoxyphenyl)(trimethylsilyloxy)acetonitrile as oily product.

reactant | 3,4,5-Trimethoxybenzaldehyde | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | potassium cyanide | [C-]#N.[K+]
reactant | trimethylsilyl chloride | C[Si](C)(C)Cl | C3H9ClSi
catalyst | zinc (II) iodide | [I-].[Zn+2].[I-]
solvent | acetonitrile | C(C)#N | C2H3N
product | (3,4,5-trimethoxyphenyl)(trimethylsilyloxy)acetonitrile | COC=1C=C(C=C(C1OC)OC)C(C#N)O[Si](C)(C)C | C14H21NO4Si
